* source AAF
V_V5         V+ 0 10
X_U4         N22500 N22212 V+ V- N22212 AD8022/AD
R_R6         N22070 IN  330 TC=0,0 
R_R9         OUT N22348  100 TC=0,0 
R_R2         N22356 N22636  150 TC=0,0 
C_C5         N22096 N22104  820p  TC=0,0 
C_C6         N22062 N22070  820p  TC=0,0 
C_C7         0 N22500  470p  TC=0,0 
R_R3         N22062 N22104  130 TC=0,0 
C_C8         0 N22636  680p  TC=0,0 
V_V7         0 V- 10
C_C4         N22212 N22220  820p  TC=0,0 
R_R12         N22212 N22356  82 TC=0,0 
R_R8         N22220 N22500  180 TC=0,0 
C_C2         0 OUT  820p  TC=0,0 
C_C9         0 N22374  220p  TC=0,0 
V_V8         IN 0  AC 5
+SIN 0 5 1meg 0 0 0
R_R4         N22104 N22374  270 TC=0,0 
X_U5         N22238 N22062 V+ V- N22062 AD8022/AD
C_C10         0 N22238  47p  TC=0,0 
R_R7         N22096 N22220  91 TC=0,0 
C_C3         N22348 N22356  820p  TC=0,0 
X_U6         N22374 N22096 V+ V- N22096 AD8022/AD
R_R5         N22238 N22070  560 TC=0,0 
X_U3         N22636 N22348 V+ V- N22348 AD8022/AD
